US06777428B1
4-[3-(benzamidyl)benzoyl]-1-methylpiperidine
A mixture of 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and benzoyl chloride (39 μL, 0.336 mmol) in methylene chloride (1 mL) was mixed for 18 h at ambient temperature. The solution was diluted with 10% acetic acid in methanol and poured over a Varian Mega Bond Elut™ strong cation exchange column (Siegel, M. G.; Hahn, P. J.; Dressman, B. A.; Fritz, J. E.; Grunwell, J. R.; Kaldor, S. W. Tetrahedron Lett. 1997, 38, 3357-3360). The column was rinsed extensively with methanol to remove impurities, then treated with a 7M ammonia in methanol to elute the product from the column. The solvent was evaporated to give 37.6 mg (>100%) of the title compound.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | benzoyl chloride | 0.336 mmol, 39 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 4-[3-(benzamidyl)benzoyl]-1-methylpiperidine | 37.6 mg, >100% | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C20H22N2O2
